US04332809
To a solution of 4-methoxy-6-(4-dimethylaminophenyl)-2-pyridinecarboxylic acid (0.44 g) in dimethylformamide (6 ml) is added carbonyldiimidazole (0.29 g), and the mixture is agitated at room temperature for one hour. To the mixture is added 5-aminotetrazole (0.15 g), and the mixture is heated at 70° C. for one hour. After cooling, the reaction mixture is poured into ice-water. The resulting precipitates are collected by filtration and washed with water and ethanol to give N-(5-tetrazolyl)-4-methoxy-6-(4-dimethylaminophenyl)-2-pyridinecarboxamide (0.36 g). M.P. 261°-263° C. (recrystallized from dimethylformamide-ethanol)

reactant | 4-methoxy-6-(4-dimethylaminophenyl)-2-pyridinecarboxylic acid | 0.44 g | COC1=CC(=NC(=C1)C1=CC=C(C=C1)N(C)C)C(=O)O | C15H16N2O3
reactant | carbonyldiimidazole | 0.29 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.15 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N-(5-tetrazolyl)-4-methoxy-6-(4-dimethylaminophenyl)-2-pyridinecarboxamide | 0.36 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)OC)C1=CC=C(C=C1)N(C)C | C16H17N7O2
